US08754115B2
Step A: Preparation of ethyl 5-(2,6-difluorophenyl)-1-methyl-1H-pyrazole-3-carboxylate
To a mixture of 2,6-difluoroacetophenone (4.7 g, 0.03 mol) and 1,2-diethyl ethanedioate (4.8 g, 0.033 mol) in ethanol (33 mL) was added sodium tert-butoxide (3.17 g, 0.033 mol). After 1 h, more ethanol (30 mL) was added to the reaction mixture and stirring was continued for 1 h. The reaction mixture was partitioned between hydrochloric acid (1 N) and diethyl ether. The organic phase was separated, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to half its original volume. To the resulting mixture was added methylhydrazine (1.52 g, 0.033 mol) and stirring was continued overnight. The reaction mixture was concentrated under reduced pressure and the resulting material was purified by silica gel chromatography (5 to 20% gradient of ethyl acetate in methylene chloride as eluant) to provide the title compound as a solid (1.0 g).

reactant | 2,6-difluoroacetophenone | 0.03 mol, 4.7 g | CC(=O)C1=C(C=CC=C1F)F | C8H6F2O
reactant | 1,2-diethyl ethanedioate | 0.033 mol, 4.8 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium tert-butoxide | 0.033 mol, 3.17 g | CC(C)([O-])C.[Na+]
reactant | methylhydrazine | 0.033 mol, 1.52 g | CNN | CH6N2
solvent | ethanol | 33 mL | C(C)O | C2H6O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | ethyl 5-(2,6-difluorophenyl)-1-methyl-1H-pyrazole-3-carboxylate | 1.0 g | FC1=C(C(=CC=C1)F)C1=CC(=NN1C)C(=O)OCC | C13H12F2N2O2
